US09034866B2
Synthesis of 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was prepared similarly according to Procedure I. Cyclopropylcarboxamidine hydrochloride was reacted with 10-bromo-9-fluoro-3-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide then hydrazine. The completed reaction was then diluted with methylene chloride and filtered over celite to afford 334 mg (70% yield) of the title compound.

reactant | Cyclopropylcarboxamidine hydrochloride | C1CC1C(=N)N.Cl
reactant | 10-bromo-9-fluoro-3-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1)F | C12H8BrFIN3O2
reactant | hydrazine | NN | H4N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 10-bromo-3-(3-cyclopropyl-1H-1,2,4-triazol-5-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 334 mg, 70% yield | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3)C3CC3)C1)F | C17H14BrFN6O2
